US08802688B2
To a solution of 6-bromo-1H-indole-3-carbonitrile (328 mg, 1.48 mmol) in ethanol (5 mL) in a 500 mL Parr bottle was added sodium acetate (370 mg, 4.47 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II), complex with dichloromethane (242 mg, 0.297 mmol). The reaction vessel was purged with nitrogen and evacuated three times and then was filled with 30 psi carbon monoxide. The reaction mixture was heated to 70° C., increasing the pressure within the vessel to 45 psi. The reaction was agitated at 70° C. for 24 hours. The reaction mixture was cooled to room temperature. The mixture was filtered through Celite, rinsing with ethanol. The filtrate was concentrated under reduced pressure and diluted with dichloromethane. The remaining solids were filtered off and the filtrate was concentrated. The residue was purified by flash column chromatography (20-80% ethyl acetate/heptanes) to give 3-cyano-1H-indole-6-carboxylic acid ethyl ester (142 mg, 45%). −APCI (M−H) 213.4; 1H NMR (400 MHz, DMSO-d6, δ): 12.50 (br. s., 1 H), 8.45 (s, 1 H), 8.16 (s, 1 H), 7.82 (dd, J=8.4, 1.4 Hz, 1 H), 7.73 (d, J=8.4 Hz, 1 H), 4.32 (q, J=7.0 Hz, 2 H), 1.33 (t, J=7.0 Hz, 3 H).

reactant | 6-bromo-1H-indole-3-carbonitrile | 1.48 mmol, 328 mg | BrC1=CC=C2C(=CNC2=C1)C#N | C9H5BrN2
reactant | sodium acetate | 4.47 mmol, 370 mg | C(C)(=O)[O-].[Na+]
reactant | dichloromethane | 0.297 mmol, 242 mg | ClCCl | CH2Cl2
reactant | ethanol | 5 mL | C(C)O | C2H6O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-cyano-1H-indole-6-carboxylic acid ethyl ester | 142 mg, 45% | C(C)OC(=O)C1=CC=C2C(=CNC2=C1)C#N | C12H10N2O2
